US06313312B1
N-(3-{3-[3-(2-Chlorophenyl)propanoyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide
To a solution of 3-(2-chlorophenyl)propanoic acid (200 mg, 1.08 mmol) in N,N-dimethylformamide (20 ml) was added 1-hydroxybenzotriazole monohydrate (187 mg, 1.22 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (318 mg, 1.66 mmol). After stirring at room temperature for 10 min, the mixture was treated with the hydrochloride salt of N-[3-(6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide (Preparation 53, 400 mg, 1.32 mmol) and sodium hydrogen carbonate (200 mg, 2.38 mmol). The reaction mixture was stirred at room temperature for 3 d and then concentrated in vacuo. Water (15 ml) was added and the reaction mixture was extracted with ethyl acetate (2×20 ml). The combined organic extracts were washed with water (10 ml), dried (MgSO4), and concentrated in vacuo to afford 510 mg of a light brown oil. Sonication for 5 min at room temperature in dichloromethane (5 ml) followed by filtration afforded the title compound as an off-white solid (124 mg, 27%).

reactant | 3-(2-chlorophenyl)propanoic acid | 1.08 mmol, 200 mg | ClC1=C(C=CC=C1)CCC(=O)O | C9H9ClO2
reactant | 1-hydroxybenzotriazole monohydrate | 1.22 mmol, 187 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.66 mmol, 318 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-[3-(6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide | 1.32 mmol, 400 mg | CC1(C2CNCC12)C=1C=C(C=CC1)NS(=O)(=O)C | C13H18N2O2S
reactant | sodium hydrogen carbonate | 2.38 mmol, 200 mg | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(3-{3-[3-(2-Chlorophenyl)propanoyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 510 mg | ClC1=C(C=CC=C1)CCC(=O)N1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C | C22H25ClN2O3S
